US06169087A
5-Amino-3-(4-((1-benzylcarbamoyl-pentyl)isopropyl-carbamoyl)phenyl)-4-oxo-3,4-dihydro-thieno[3,4-d]pyridazine-1-carboxylic acid ethyl ester
To a solution of 5-amino-3-(4-carboxy-phenyl)-4-oxo-3,4-dihydro-thieno[3,4-d]pyridazine-1-carboxylic acid ethyl ester (9.0 mg, 0.025 mmol) in a mixture of methanol and tetrahydrofuran (200 ml, 1:1) was added isopropyl amine (25 μl, 0.025 mmol, 1.0 M in tetrahydrofuran), valeraldehyde (25 μl, 0.025 mmol, 1.0 M in tetrahydrofuran) and benzyl isocyanide (25 μl, 0.025 mmol, 1.0 M in tetrahydrofuran). The mixture was stirred at 45° C. for 64 h. After dilution with dichloromethane (1 ml), the mixture was purified on a preparative TLC plate using a mixture of methanol/ethyl acetate/hexane (1:4:4) as eluent. Spot eluting with Rf=0.66 was collected which afforded 6.3 mg (42%) of the title compound.

reactant | 5-amino-3-(4-carboxy-phenyl)-4-oxo-3,4-dihydro-thieno[3,4-d]pyridazine-1-carboxylic acid ethyl ester | 0.025 mmol, 9.0 mg | C(C)OC(=O)C1=NN(C(C=2C1=CSC2N)=O)C2=CC=C(C=C2)C(=O)O | C16H13N3O5S
reactant | isopropyl amine | 0.025 mmol, 1.0 M, 25 μl | C(C)(C)N | C3H9N
reactant | valeraldehyde | 0.025 mmol, 1.0 M, 25 μl | C(CCCC)=O | C5H10O
reactant | benzyl isocyanide | 0.025 mmol, 1.0 M, 25 μl | C(C1=CC=CC=C1)[N+]#[C-] | C8H7N
reactant | methanol | CO | CH4O
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
product | 5-Amino-3-(4-((1-benzylcarbamoyl-pentyl)isopropyl-carbamoyl)phenyl)-4-oxo-3,4-dihydro-thieno[3,4-d]pyridazine-1-carboxylic acid ethyl ester | 6.3 mg, 42% | C(C)OC(=O)C1=NN(C(C=2C1=CSC2N)=O)C2=CC=C(C=C2)C(N(C(C)C)C(CCCC)C(NCC2=CC=CC=C2)=O)=O | C32H37N5O5S
